data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,6547,"C=CC1CC1C(C(C=C)[Si:1](C)(C)C)[O-:2].[H][H].[K+]|(2, 1)"
train,pmechdb_split_0,0,9240,"CC1=C[CH:1]=[CH:2]O1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6754,"CBr.CCN1CCC23C4=C5C=CC(O[B:1](Br)Br)=C4OC2C(=O)CCC3(O)C1C5.O.[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,9402,"CN(C)[Si-:1](C)(C)(C)[O+:2](C)C|((1, 2), 2)"
train,pmechdb_split_0,0,8896,"COC1=C(C)C=C2C[C:1](C)=[C:2]([O-:3])C(CC[CH:4]=[N+:5](C)C)C2=C1|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4857,"C1=CC=[N:1]C=C1.CCOC(=O)[CH:2]([H:3])[C:4](CC1=CC(=O)OC(C)(C)O1)=[O:5].O=C(Cl)CCC1=CC=CC=C1|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8129,"C[CH:1]=[O+:2][B-](F)(F)F.C[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2543,"CCOC(=O)CC[OH:1].Cl[S:2](Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9032,"CC(=O)[O-].CC[C:1](=[CH:2]CC1(C)C(=O)CCC1=[O+:3][H:4])[OH:5]|(5, 1);((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,5009,"C=CC(C)=O.CCO.CC[N+:1](CC)(CC)[H:2].CC[N+]1=C(C(C2=CC=C(OC)C=C2)[O-:3])SC(CCO)=C1C.[Br-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3432,"CC1(C)C2CCC1(CS(=O)(=O)[O-])C(=O)C2.CC1(CC[C:1]([CH:2](C)[H:3])=[NH+:4]C(CC2=CC=CC=C2)C(=O)O)C(=O)CCCC1=O.O.[NH3+]C(CC1=CC=CC=C1)C(=O)[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,5577,"CC(=O)O.CC(=O)OI1OC(=O)C2=C1C=CC=C2.O=C(C1=CC=C[NH:1]1)N1CCCC1[CH:2]=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9656,"C1=CC=C(COCC=CC[N+:1]2=[CH:2]CCC2)C=C1.C[Si](C)(C)CC=C[CH:3]=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9474,"CC1(C)CC2=C(C=NN2C2=CC=C(F)C=C2)[C:1](=[O:2])C1=NC1=C([NH2:3])C=CC(C(=O)C2=CC=CC=C2)=C1.CCO.NC1=C([NH3+])C=C(C(=O)C2=CC=CC=C2)C=C1.O.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4175,"CC(C)[CH2][AlH:1][CH2]C(C)C.CCCC(N(C)CCC)=[O:2]|(2, 1)"
train,pmechdb_split_0,0,9375,"CC(=O)[O-:1].CC1(C)C2CC1[C:2](CC(C(=O)C1=C(F)C=CC=C1)[N+]1=CC=CC=C1)([H:3])[C:4](=[NH2+:5])C2.O.[I-]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9925,"Br[C:1]1=[CH:2]OC=C1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5584,"CC(=O)O[Si-](C)(C)(C)OC(C)=[NH:1].C[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1037,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.CC1=CC=CC=C1.FC1=CC=C(Br)C(C=[O:3])=C1.OCCO|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8774,"C#CCC1=C([NH:1][N:2]=[O:3])C=CC=C1.[H:4][Cl:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5310,"CCC(C(C)CN(C)C)=[O+:1][H:2].C[NH:3]C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6436,"CO[C:1]1=[CH:2]OC=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4870,"C1=CC=CC=C1.CC(=O)[O:1][H:2].CC1=CCC(C)([OH:3])N1CCOCCO.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5619,"CC(CO)(C[O+:1](C(O)C1=CC=CC=C1)[H:2])C(=O)O.CC1=CC=C(S(=O)(=O)[O-:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,810,"CC(=O)[O-:1].CO.O.OC12C3=CC4=C(C=CC=C4)C=C3C1=NC1=C(C=CC=C1)[NH+:2]2[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6935,"C=C.CCCC.[Li][O+](C=C)[Si-:1](C)(C)(C)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,4427,"C1=CC=C([CH+:1][CH2:2][H:3])C=C1.CC[OH:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,2296,"C#CC[C+:1]1C=C[C:2]([N+](=O)[O-])([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,5725,"COCC1CCCN1[N+:1]([Li-][N:2](C(C)C)C(C)C)=[C:3]1C=C(C)CC[CH:4]1[H:5]|(2, 5);((5, 4), 3);((3, 1), 1)"
train,pmechdb_split_0,0,6020,"CCOC(=O)C(CC(C)(O)[NH+:1](C)[H:2])C(C)=O.C[NH2:3].O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1515,"C[CH:1](C)[I:2]|((1, 2), 2)"
train,pmechdb_split_0,0,5150,"CC1=CC=C(CC(O)C2=CC=CC=C2)C=C1.N#C[C:1](O)(C1=CC=CC=C1)[C:2](CC1=CC=CC=C1)(C1=CC=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2553,"C=C(CC[CH:1]=[O:2])[O-:3].O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8615,"C=CCCC1(C(=O)OCC)CCCC[C:1]1=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2661,"CC(C)[O-].CCCC(CC)[O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,1291,"C=CC(NCC)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6603,"CC(=O)C1=CC2=C(C=C1)[C:1](S(=O)(=O)O)([H:2])[CH+:3]C=C2.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,8082,"CC(C)(C)OC(=O)NCC(=O)[O:1][H:2].CC(C)N=C=[N:3]C(C)C.CCC1(O)C(=O)OCC2=C1C=C1C3=C(C=C4C=CC=CC4=N3)CN1C2=O.CN(C)C1=CC=NC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10333,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCC1=CC(C)=C([S+:1]2C(C)[CH2:2]2)C(C)=C1.CO.[NH3:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5142,"CC(C)[OH+:1][H:2].CC(C)[O][Al-]([O]C(C)C)([O]C1CCCCC12CCCCC2=O)[O:3]C(C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9730,"Br[C:1]1=[CH:2]OC=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2335,"C[C:1](C)=[C:2](C)[O-:3].C[CH:4](C)[Br:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1147,"COC1=C(Br)C=CC2=C(OC(C)C)C=C([CH:1]=[OH+:2])C=C21.O=C(O[O-:3])C1=CC(Cl)=CC=C1|(3, 1);((1, 2), 2)"
